US06825312B2
Preparation of 3,5-diphenyloxy-4′-hydroxybenzophenone
14.90 g (0.038 mole) of 3,5-diphenyloxy-4′-methoxybenzophenone are dissolved under argon in a mixture of 60 ml of hydrobromic acid (48% in water) and 120 ml of hydrobromic acid (33% solution in acetic acid). The mixture is stirred for 4 hours under reflux. A further 100 ml of hydrobromic acid (330/solution in acetic acid) and 50 ml of hydrobromic acid (48% in water) are added to the reaction solution. The reaction mixture is stirred for a further 6 hours under reflux. The reaction mixture is then poured onto ice and extracted several times with diethyl ether. The organic phases are combined and extracted several times with NaOH solution (20%). The aqueous phases are combined and washed neutral with HCl solution. The neutralised aqueous phase is then extracted several times with diethyl ether. The organic phases are combined, dried over magnesium sulfate, and the solvent is removed in vacuo. The crude product is taken up in a small amount of diethyl ether and filtered over silica gel. After removing the solvent and drying the residue in a high vacuum, 11.25 g (78%) of a white solid are obtained.

reactant | 3,5-diphenyloxy-4′-methoxybenzophenone | 0.038 mole, 14.90 g | C1(=CC=CC=C1)OC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=C(C1)OC1=CC=CC=C1 | C26H20O4
solvent | hydrobromic acid | 60 ml | Br | BrH
solvent | hydrobromic acid | 120 ml | Br | BrH
solvent | hydrobromic acid | 50 ml | Br | BrH
solvent | hydrobromic acid | 100 ml | Br | BrH
product | 3,5-diphenyloxy-4′-hydroxybenzophenone | C1(=CC=CC=C1)OC=1C=C(C(=O)C2=CC=C(C=C2)O)C=C(C1)OC1=CC=CC=C1 | C25H18O4
